US07704995B2
A solution of 3-(5-amino-6-cyanopyrazine-2-yl)-N-[(1S)-2,3-dihydro-1H-inden-1-yl]benzamide (2.4 g, 6.6 mmol) and 1,1-dimethyl (3S)-3-(hydrazinocarbonyl)piperidine-1-carboxylate (2.4 g, 10.1 mmol) in NMP (3 mL) was heated to 180-200° C. for 1 h. The solvent was removed under reduced pressure. The residue obtained was stirred with CH2Cl2/TFA (20% v/v)) for 30 min., concentrated and purified by hplc. The compound was converted to the hydrochloride salt using a 4 M solution of HCl in dioxane to afford 3-(5-amino-6-{5-[(3S)-piperidin-3-yl]-4H-1,2,4-triazol-3-yl}pyrazin-2-yl)-N-[(1S)-2,3-dihydro-1H-inden-1-yl]benzamide: 1H NMR (400 MHz; CD3OD): 8.65 (s, 1H); 8.6 (d, 1H); 7.6 (t, 1H); 7.7-7.8 (m, 4H); 5.7 (t, 1H); 3.75-3.4 (m, 4H); 3.8-3.36 (m, 3H); 3.35-2.8 (m, 3H); 2.6 (m, 1H); 2.4 (m, 2H); 2.1-2.0(m, 4H); 1.3 (t, 3H); MS (EI) for C27H28N8O: 481 (MH+).

reactant | 3-(5-amino-6-cyanopyrazine-2-yl)-N-[(1S)-2,3-dihydro-1H-inden-1-yl]benzamide | 6.6 mmol, 2.4 g | NC=1N=CC(=NC1C#N)C=1C=C(C(=O)N[C@H]2CCC3=CC=CC=C23)C=CC1 | C21H17N5O
reactant | CH2Cl2 TFA | C(Cl)Cl.C(=O)(C(F)(F)F)O
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | 3-(5-amino-6-{5-[(3S)-piperidin-3-yl]-4H-1,2,4-triazol-3-yl}pyrazin-2-yl)-N-[(1S)-2,3-dihydro-1H-inden-1-yl]benzamide | NC=1N=CC(=NC1C1=NN=C(N1)[C@@H]1CNCCC1)C=1C=C(C(=O)N[C@H]2CCC3=CC=CC=C23)C=CC1 | C27H28N8O
